2160-02-15 09:36:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: vaginal bleeding, insulin drip
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -transfused with appropriate bump in hct
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2160-2-15**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-15**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 107 (95 - 107) bpm
   BP: 110/53(67) {108/53(67) - 154/94(107)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
           967 mL
   PO:
           240 mL
   TF:
   IVF:
   50 mL
   Blood products:
   652 mL
   Total out:
                                                                      0 mL
                                                                   -900 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,867 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///12/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.4 g/dL
   302 K/uL
   157 mg/dL
   11.2 mg/dL
   12 mEq/L
   3.8 mEq/L
   81 mg/dL
   110 mEq/L
   138 mEq/L
   24.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2160-2-15**]  03:00 AM
                             [**2160-2-15**]  08:14 AM
   WBC
   7.0
   Hct
   18.7
   24.0
   Plt
   302
   Cr
   11.2
   Glucose
   157
   Other labs: PT / PTT / INR:11.0/26.1/0.9, Alk Phos / T Bili:/0.1,
   Lactic Acid:1.3 mmol/L, LDH:172 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:9.9 mg/dL
   Assessment and Plan
   # Labile blood sugars:
   -likely product of NPO state
   -accelerate POs as able - restart home regimen
   - FSG/SSRI
   -[**Last Name (un) 303**] following
   # Menoraghia:
   -bumped with transfusion
   -ultrasound negative.
   -rate of vaginal bleeding has slowed
   -gyn following - appreciate input
   -estrogen per gyn recs
   -no surgical intervention indicated at present
   # Metabolic Acidosis:
   -chronic anion gap and acidosis - HCO3 chronically of 16.
   -No ketones on UA
   -Suspect most likely from uremia from ESRD.
   - continue to trend
   #. Hypertension:
   -continue home meds
   #ESRD:
   -PD currently
   -no sig fluid/electrolyte issues
   #OSA
   -cont home CPAP settings
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-2-14**] 11:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2160-02-16 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2160-2-16**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-16**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 74 (74 - 114) bpm
   BP: 132/74(88) {110/53(64) - 188/113(122)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,137 mL
                                                                     75 mL
   PO:
                                                                  2,060 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                  1,002 mL
   Total out:
                                                                  4,800 mL
                                                                 -1,400 mL
   Urine:
                                                                  2,800 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,663 mL
                                                                  1,475 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   9.6 g/dL
   215 mg/dL
   10.6 mg/dL
   18 mEq/L
   3.1 mEq/L
   71 mg/dL
   99 mEq/L
   133 mEq/L
   28.3 %
   6.1 K/uL
         [image002.jpg]
                             [**2160-2-15**]  03:00 AM
                             [**2160-2-15**]  08:09 AM
                             [**2160-2-15**]  08:14 AM
                             [**2160-2-15**]  12:37 PM
                             [**2160-2-15**]  09:17 PM
                             [**2160-2-16**]  05:09 AM
   WBC
   7.0
   6.1
   Hct
   18.7
   24.0
   21.2
   26.3
   28.3
   Plt
   302
   230
   Cr
   11.2
   10.6
   Glucose
   157
   105
   215
   Other labs: PT / PTT / INR:11.2/24.0/0.9, ALT / AST:14/11, Alk Phos / T
   Bili:40/0.1, Lactic Acid:1.3 mmol/L, LDH:172 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   30 year-old female with poorly-controlled DM1, ESRD on PD,
   hypertension admitted to GYN with mennorhagia and acute anemia,
   transfered to the MICU for labile blood sugars.
   # Labile blood sugars:  Patient with lows after receiving home insulin
   while NPO and highs while given an amp of D50.  Currently with blood
   glucose near 400.  Nothing to suggest acut process that could
   precipitate uncontrolled sugars.  While does have an anion gap
   acidosis, no ketones in urine to suggest DKA.
   - restart home regimen Regular U-500 [**2078-9-28**] at breakfast, lunch,
   bedtime + Humalog 12 units at dinner + Humalog ISS at dinner per latest
   [**Last Name (un) 303**] note.
   - check 2hr finger sticks
   - if continues to have poorly controlled glucose, will initiate insulin
   gtt at 2 units.  Will avoid D10 if possible due to RF
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] recs in the morning
   - give [**2-9**] SS while NPO
   - cont lisinopril, crestor; clarify why not on aspirn.
   # Menorrhagia:  Hct had not increase to transfusion. Currently 21, with
   baseline of 24.  No evidence of hemodynamic instability.  Rate of
   vaginal bleeding has improved and ultrasound negative.  One dose of
   estrogen given by GYN, and will consider additional doses vs. D+C in
   the morning.  No clear persipitant
   - f/u gyn recs
   - give second transfusion and follow serial hct
   - SCDs
   # Metabolic Acidosis:  Has an anion gap of 19, but pt with chronic
   anion gap and acidosis with HCO3 chronically of 16.  No ketones on UA.
   Suspect most likely from uremia from ESRD.
   - check VBG lactate
   - continue to trend
   #. Hypertension:  Continue home regiment of labetolol to 200mg [**Hospital1 7**],
   lisinopril 40mg daily, and lasix 80mg daily.
   #. ESRD: on home PD.  Renal aware.  No PD overnight and will do in am.
   No current signs of fluid overload.
   #Resltess legs/neuropathy- Continue home regimen of gabapentin and
   pramipexole.
   #OSA: cont home CPAP settings
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-2-15**] 12:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-02-16 07:57:00 Physician Attending Progress Note
Chief Complaint: Vaginal bleeding
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI: The patient is a T1DM (HBgA1c 10.5) complicated by retinopathy and
   nephropathy followed at the [**Last Name (un) 303**] who as admitted on the day of
   presentation to the GYN service after presenting with vaginal
   bleeding.  The patient describes having heavy vaginal bleeding since
   [**2-8**], going through 4 pads per hour.  While undergoing PD dialysis
   today, she was noted to have a HCT of 17.  She received 1 unit of PRBC,
   with no improvement ( 21 --> 21).  A vaginal ultrasound was obtained,
   showed normal vaginal anatomy.  She remained hemodynamically stable,
   with SBPs between 140-170.  The patinet was additonally given one dose
   of IV lasix 40mg.
   .
   The primary team consulted medicine for assistance in manegment of the
   patinet's anion-gap acidosis and [**Last Name (un) 303**] for T1DM.  The patient had
   erradic blood sugars.  She became hypoglycemic, with blood sugar of 62,
   but rose to 376 foolowing 1 amp of D50.  With concern that she may need
   an insulin gtt she was transfered to the MICU for further manemgent.
   Of note, the patient was admitted to the MICU in [**1-15**] for DKA.
   - Early MICU course: [**Last Name (un) 303**] following for glucose. 4 unit pRBC during
   stay. Started on estrogen IV by OB-GYN.
   24 Hour Events: Unresponsive and glucose 14 this AM, resolved with D50.
   has rec
d 4U pRBC during MICU stay, none overnight.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2160-2-16**] 05:05 AM
   Other medications:
   nicotine patch
   gabapentin
   calcitriol
   simvastatin
   renagel
   nortryptiline tid
   nephrocaps
   ISS
   on peritoneal dialysis
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-16**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 74 (74 - 114) bpm
   BP: 132/74(88) {110/53(64) - 188/113(122)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,137 mL
                                                                     75 mL
   PO:
                                                                  2,060 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                  1,002 mL
   Total out:
                                                                  4,800 mL
                                                                 -1,400 mL
   Urine:
                                                                  2,800 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,663 mL
                                                                  1,475 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   GEN:The patient is in no distress and appears comfortable
   SKIN:No rashes or skin changes noted
   HEENT:No JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST:Lungs are clear without wheeze, rales, or rhonchi.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES:no peripheral edema, warm without cyanosis
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   230 K/uL
   215 mg/dL
   10.6 mg/dL
   18 mEq/L
   3.1 mEq/L
   71 mg/dL
   99 mEq/L
   133 mEq/L
   28.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2160-2-15**]  03:00 AM
                             [**2160-2-15**]  08:09 AM
                             [**2160-2-15**]  08:14 AM
                             [**2160-2-15**]  12:37 PM
                             [**2160-2-15**]  09:17 PM
                             [**2160-2-16**]  05:09 AM
   WBC
   7.0
   6.1
   Hct
   18.7
   24.0
   21.2
   26.3
   28.3
   Plt
   302
   230
   Cr
   11.2
   10.6
   Glucose
   157
   105
   215
   Other labs: PT / PTT / INR:11.2/24.0/0.9, ALT / AST:14/11, Alk Phos / T
   Bili:40/0.1, Lactic Acid:1.3 mmol/L, LDH:172 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   30 year-old female with poorly-controlled DM1, ESRD on PD,
   hypertension admitted to GYN with mennorhagia and acute anemia,
   transfered to the MICU for labile blood sugars.
   .
   # Labile blood sugars:  Patient with lows after receiving home insulin
   while NPO and highs while given an amp of D50.  Currently with blood
   glucose near 400.  Nothing to suggest acut process that could
   precipitate uncontrolled sugars.  While does have an anion gap
   acidosis, no ketones in urine to suggest DKA.
   - restart home regimen Regular U-500 [**2078-9-28**] at breakfast, lunch,
   bedtime + Humalog 12 units at dinner + Humalog ISS at dinner per latest
   [**Last Name (un) 303**] note.
   [] glucose 45 yesterday AM
attributed to NPO for possible OR.
   110units humalin U at lunch
   145units humalin U at bedtime:
   - check 2hr finger sticks
   - if continues to have poorly controlled glucose, will initiate insulin
   gtt at 2 units.  Will avoid D10 if possible due to RF
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] recs in the morning
   - give [**2-9**] SS while NPO
   - cont lisinopril, crestor; clarify why not on aspiron.
   .
   # Menoraghia:  Hct had not increase to transfusion. Currently 21, with
   baseline of 24.  No evidence of hemodynamic instability.  Rate of
   vaginal bleeding has improved and ultrasound negative.  One dose of
   estrogen given by GYN, and will consider additional doses vs. D+C in
   the morning.
   - f/u gyn recs. Completed esotrogen.
   - active bleeding or hct > 25
   - SCDs
   .
   # Metabolic Acidosis:  Has an anion gap of 19, but pt with chronic
   anion gap and acidosis with HCO3 chronically of 16.  No ketones on UA.
   Suspect most likely from uremia from ESRD.
   - check VBG lactate
   - continue to trend
   .
   #. Hypertension:  Continue home regiment of labetolol to 200mg [**Hospital1 7**],
   lisinopril 40mg daily, and lasix 80mg daily.
   .
   #. ESRD: on home PD.  Renal aware.  No PD overnight and will do in am.
   No current signs of fluid overload.
   .
   #Resltess legs/neuropathy- Continue home regimen of gabapentin and
   pramipexole.
   .
   #OSA: cont home CPAP settings
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: SCDs
   # ACCESS: PIV x 2
   # CODE:  FULL Code
   # CONTACT:
   # DISPO: ICU
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-2-15**] 12:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2160-02-17 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Last Name (un) 303**] recommended decreasing HS insulin to 100 units
   - GYN recommended outpatient clinic appt next week- they will schedule
   for her; also recommneded to repeat prolactin fasting one morning as
   well
   - received 20 units of humalog in afternoon for hyperglycemia (400s)
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2160-2-16**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-17**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 98 (81 - 116) bpm
   BP: 131/85(96) {125/75(84) - 179/107(130)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.4 kg (admission): 73.9 kg
                  Total In:
                                                                  1,385 mL
                                                                    480 mL
   PO:
                                                                  1,310 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                 -1,000 mL
   Urine:
                                                                  1,900 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -915 mL
                                                                  1,480 mL
   Respiratory support
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Non recactive left eye
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   245 K/uL
   8.7 g/dL
   128 mg/dL
   9.4 mg/dL
   16 mEq/L
   3.7 mEq/L
   75 mg/dL
   99 mEq/L
   133 mEq/L
   24.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2160-2-15**]  03:00 AM
                             [**2160-2-15**]  08:09 AM
                             [**2160-2-15**]  08:14 AM
                             [**2160-2-15**]  12:37 PM
                             [**2160-2-15**]  09:17 PM
                             [**2160-2-16**]  05:09 AM
                             [**2160-2-16**]  07:16 PM
                             [**2160-2-17**]  04:33 AM
   WBC
   7.0
   6.1
   8.6
   Hct
   18.7
   24.0
   21.2
   26.3
   28.3
   29.0
   24.2
   Plt
   [**Telephone/Fax (3) 12590**]
   Cr
   11.2
   10.6
   9.4
   Glucose
   157
   105
   215
   128
   Other labs: PT / PTT / INR:11.2/24.0/0.9, ALT / AST:14/11, Alk Phos / T
   Bili:40/0.1, Lactic Acid:1.3 mmol/L, LDH:172 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.5 mg/dL, PO4:6.3 mg/dL
   Microbiology:  GRAM STAIN (Final [**2160-2-15**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):
   Assessment and Plan
   30 year-old female with poorly-controlled DM1, ESRD on PD, hypertension
   admitted to GYN with mennorhagia and acute anemia, transfered to the
   MICU for labile blood sugars.
   # Labile blood sugars:  Patient with continued labile blood sugars, but
   no longer with dangerous lows in last 24 hrs with diabetic diet and
   [**Last Name (un) **]
s recommended modificications
   - reduced U-500 insulin at bedtime, cont current regiment
   - otherwise continue home regimen
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] reccs
   - reduce to q 4hr finger sticks
   - give [**2-9**] SS while NPO
   - cont lisinopril, crestor; clarify why not on aspirn.
   # Menorrhagia:  Hct has increased from 18 to 29 after four units, but
   dropped to 24 this morning.  Ultrasound negative.  S/p estrogen doses x
   3.  Unlikely to benefit from D&C per gyn.
   - f/u gyn recs
   - follow q6h hct
   # Metabolic Acidosis:  Has an anion gap of 19, but pt with chronic
   anion gap and acidosis with HCO3 chronically of 16.  No ketones on UA.
   Suspect most likely from uremia from ESRD.
   - continue to trend
   #. Hypertension:
   - can restart home regimen gradually (labetolol to 200mg [**Hospital1 7**],
   lisinopril 40mg daily, lasix 80mg daily (not yet restarted)
   #. ESRD: on home PD.  Renal aware.  No PD overnight and will do in am.
   No current signs of fluid overload.
   #Resltess legs/neuropathy- Continue home regimen of gabapentin and
   pramipexole.
   #OSA: cont home CPAP settings
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2160-2-15**] 12:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-02-17 08:02:00 Physician Attending Progress Note
Chief Complaint: labile blood glucose, vaginal bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: The patient is a T1DM (HBgA1c 10.5) complicated by retinopathy and
   nephropathy followed at the [**Last Name (un) 303**] who as admitted on the day of
   presentation to the GYN service after presenting with vaginal
   bleeding.  The patient describes having heavy vaginal bleeding since
   [**2-8**], going through 4 pads per hour.  While undergoing PD dialysis
   today, she was noted to have a HCT of 17.  She received 1 unit of PRBC,
   with no improvement ( 21 --> 21).  A vaginal ultrasound was obtained,
   showed normal vaginal anatomy.  She remained hemodynamically stable,
   with SBPs between 140-170.  The patinet was additonally given one dose
   of IV lasix 40mg.
   .
   The primary team consulted medicine for assistance in manegment of the
   patinet's anion-gap acidosis and [**Last Name (un) 303**] for T1DM.  The patient had
   erradic blood sugars.  She became hypoglycemic, with blood sugar of 62,
   but rose to 376 foolowing 1 amp of D50.  With concern that she may need
   an insulin gtt she was transfered to the MICU for further manemgent.
   Of note, the patient was admitted to the MICU in [**1-15**] for DKA.
   24 Hour Events:
   blood glucose increased yesterday afternoon to 400
s, corrected with
   short-acting insulin 20units. In consultation with [**Name (NI) 303**], pt
s bedtime
   insulin decreased from 145 to 100. Overnight, blood glucose stable at
   3AM 84, qbreakfast 100. Mild AM nausea. Continued improvement in
   vaginal bleeding, [**2-9**] pad per day.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2160-2-16**] 04:00 PM
   Other medications:
   lisinopril, labetalol
   Insulin U 500: 100 (lunch), 100 (bedtime) + ISS and short-acting
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-17**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 98 (81 - 116) bpm
   BP: 131/85(96) {125/75(84) - 179/107(130)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.4 kg (admission): 73.9 kg
                  Total In:
                                                                  1,385 mL
                                                                    480 mL
   PO:
                                                                  1,310 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                 -1,000 mL
   Urine:
                                                                  1,900 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -915 mL
                                                                  1,480 mL
   Respiratory support
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   Gen: A/Ox3, NAD
   HEENT: oropharynx clear
   Lung: CTA-B
   Cor: RRR no m/r/g
   Abd: soft NT +BS
   Ext: No c/c/e
   Skin:  No lesions
   Neurologic: Non focal
   Labs / Radiology
   8.7 g/dL
   245 K/uL
   128 mg/dL
   9.4 mg/dL
   16 mEq/L
   3.7 mEq/L
   75 mg/dL
   99 mEq/L
   133 mEq/L
   24.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2160-2-15**]  03:00 AM
                             [**2160-2-15**]  08:09 AM
                             [**2160-2-15**]  08:14 AM
                             [**2160-2-15**]  12:37 PM
                             [**2160-2-15**]  09:17 PM
                             [**2160-2-16**]  05:09 AM
                             [**2160-2-16**]  07:16 PM
                             [**2160-2-17**]  04:33 AM
   WBC
   7.0
   6.1
   8.6
   Hct
   18.7
   24.0
   21.2
   26.3
   28.3
   29.0
   24.2
   Plt
   [**Telephone/Fax (3) 12590**]
   Cr
   11.2
   10.6
   9.4
   Glucose
   157
   105
   215
   128
   Other labs: PT / PTT / INR:11.2/24.0/0.9, ALT / AST:14/11, Alk Phos / T
   Bili:40/0.1, Lactic Acid:1.3 mmol/L, LDH:172 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.5 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   30F (poorly-controlled DM1  with h/o hypoglycemic ED visits, ESRD on
   PD, HTN) initially admitted to GYN with mennorhagia and acute anemia,
   transfered to the MICU for labile blood sugars.
   # Labile blood sugars: No hypoglycemia for >24 hours after bedtime
   insulin down-titrated. No evidence of DKA with hyperglycemia yesterday,
   bicarb low but stable.
   [] glucose fingerstick qAC + HS + early AM
   [] [**Last Name (un) 303**] recs, including whether to mildly down-titrate bedtime
   glucose further.
   # Menoraghia: Rec
d total of 4units pRBC during MICU stay, none for
   past 48hr. Hct between 24-28 for past 2 days. Vaginal bleeding has
   significantly improved. s/p estrogen IV x3 doses per GYN. GYN signed
   off.
   [] hct check q6hr
   [] hct goal > 21 or if evidence of active bleeding
   [] SCDs, no heparin ppx
   [] Schedule outpt GYN follow-up
   #STABLE
   -HTN: Continue titration of home meds. Add back home med lasix.
   -ESRD: on home PD.  Renal following..
   -Resltess legs/neuropathy- Continue home regimen of gabapentin and
   pramipexole.
   -OSA: cont home CPAP settings
   ---
   # FEN: replete lytes prn / diabetic
   # PPX: SCDs
   # ACCESS: PIV x 2
   # CODE:  FULL Code
   # DISPO: Floor (medicine)
   ICU Care
   Lines:
   18 Gauge - [**2160-2-15**] 12:52 PM
   Total time spent: 30 mins
   ------ Protected Section ------
   MICU Attending:
   Blood sugars improved with alteration in insulin regimen, although some
   hyperglycemia yesterday. No evidence of ketosis.
   Patient complains of a dry mouth. Denies polyuria. No abdominal pain.
   On exam, she is awake, alert, comfortable. Oral mucosa is dry. Chest is
   clear bilaterally with good breath sounds. I/E = [**2-8**]. No peripheral
   edema.
   IMP/Plan:
   Hypoglycemia
   Vaginal Bleeding
   Anemia due to blood loss
   Metabolic Acisosis
   Patient improved with diminished bleeding. Hct in mid-20
   Hemodynamically stable.
   Blood sugars remain difficult to control, but no further episodes of
   hypoglycemia. Further adjustments in insulin regiment to be made on
   medical unit.
   Large anion gap acidosis likely due to renal failure. No evidence of
   ketosis.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2160-2-17**] 15:11 ------